US06054470
A mixture of bis(triphenylphosphine)Pd(II) chloride (0.014 g), lithium chloride (0.067 g), 1-hexyl-5-iodo-4-methyl-3-nitro-2-pyridone (0.15 g, 0.41 mmol) and phenyltributyltin (0.11 mL, 0.62 mmol) in THF (15 mL) was heated under reflux for 2 days. The mixture was cooled, diluted with ethyl acetate, and washed with aqueous potassium fluoride and water. The organic phase was dried, filtered and evaporated. Chromatography of the residue over silica gel (petroleum ether/methylene chloride 1/1 to methylene chloride gradient) gave 1-hexyl-4-methyl-3-nitro-5-phenyl-2-pyridone (0.093 g, 72%). 3-Amino-1-hexyl-4-methyl-5-phenyl-2-pyridone. A mixture of 1-hexyl-4-methyl-3-nitro-5-phenyl-2-pyridone (0.093 g, 0.30 mmol) and 10% Pd/C in ethyl acetate (100 mL) was hydrogenated at 45 psi in a Parr apparatus for 4 hours. The catalyst was removed by filtration, and the solvent was evaporated to give 3-amino-1-hexyl-4-methyl-5-phenyl-2-pyridone (0.083 g, 97%).

reactant | lithium chloride | 0.067 g | [Cl-].[Li+]
reactant | 1-hexyl-5-iodo-4-methyl-3-nitro-2-pyridone | 0.41 mmol, 0.15 g | C(CCCCC)N1C(C(=C(C(=C1)I)C)[N+](=O)[O-])=O | C12H17IN2O3
reactant | phenyltributyltin | 0.62 mmol, 0.11 mL | C1(=CC=CC=C1)[Sn](CCCC)(CCCC)CCCC
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-hexyl-4-methyl-3-nitro-5-phenyl-2-pyridone | 0.093 g, 72% | C(CCCCC)N1C(C(=C(C(=C1)C1=CC=CC=C1)C)[N+](=O)[O-])=O | C18H22N2O3
